US07855297B2
By the reaction and treatment in the same manner as in Example 6 using N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.75 g) and 3-(tetrahydropyran-2-yloxy)propyl bromide (0.52 mL) as starting materials, N-(4-isopropylphenyl)-N-[3-(tetrahydropyran-2-yloxy)propyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide (0.9 g) was obtained.

reactant | N-(4-isopropylphenyl)-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.75 g | C(C)(C)C1=CC=C(C=C1)NC(=O)C1CCCC2=CC=CC=C12 | C20H23NO
reactant | 3-(tetrahydropyran-2-yloxy)propyl bromide | 0.52 mL | O1C(CCCC1)OCCCBr | C8H15BrO2
product | N-(4-isopropylphenyl)-N-[3-(tetrahydropyran-2-yloxy)propyl]-1,2,3,4-tetrahydronaphthalene-1-carboxamide | 0.9 g | C(C)(C)C1=CC=C(C=C1)N(C(=O)C1CCCC2=CC=CC=C12)CCCOC1OCCCC1 | C28H37NO3
